US05571774
N-1-(Cyclopropyl)ethyl-6-amino-5-methylpyridine-2,3-dicarboximide
6.3 g (0.0254 mol) of N-1-(cyclopropyl)ethyl-6-fluoro-5-methylpyridine-2,3-dicarboximide and 4.1 g (0.051 mol) of potassium cyanate were introduced into a mixture of 50 ml of DMF and 1 ml of water at 25° C. with stirring and then stirred at 125° C. for 30 minutes. After concentrating the reaction mixture under reduced pressure, the residue was stirred in succession with methyl tert-butyl ether and with water. Insoluble matter was filtered off with suction, washed with methyl tert-butyl ether and dried under reduced pressure. 3.5 g (56% of theory) of the title compound of m.p. 219°-220° C. were obtained. A further 1.6 g (=26% of theory) of the title compound of m.p. 201°-219° C. were obtained from the organic phase after washing with water and drying over magnesium sulfate (active compound Example 1.059).

reactant | N-1-(cyclopropyl)ethyl-6-fluoro-5-methylpyridine-2,3-dicarboximide | 0.0254 mol, 6.3 g | C1(CC1)C(C)N1C(=O)C2=NC(=C(C=C2C1=O)C)F | C13H13FN2O2
reactant | potassium cyanate | 0.051 mol, 4.1 g | [O-]C#N.[K+]
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | 1 ml | O | H2O
product | N-1-(Cyclopropyl)ethyl-6-amino-5-methylpyridine-2,3-dicarboximide | C1(CC1)C(C)N1C(=O)C2=NC(=C(C=C2C1=O)C)N | C13H15N3O2
